US08372984B2
A solution of t-butyl 2-aminoacetate (113.7 g, 866.8 mmol, 1.0 equiv) in toluene (1000 mL) was combined with benzophenone (157.9 g, 866.5 mmol, 1.0 equiv) and 4-methylbenzenesulfonic acid (14.9 g, 86.5 mmol, 0.1 equiv). The resulting solution was heated to reflux overnight. The mixture was then concentrated in vacuo to 600 mL. The mixture was cooled to 15° C. with a water/ice bath. The product precipitated and the solids were collected by filtration. The solids was washed with petroleum ether (5×150 mL) to yield t-butyl 2-(diphenylmethyleneamino)acetate (125 g) as a white solid.

reactant | t-butyl 2-aminoacetate | 866.8 mmol, 113.7 g, 1.0 equiv | NCC(=O)OC(C)(C)C | C6H13NO2
reactant | benzophenone | 866.5 mmol, 157.9 g, 1.0 equiv | C(C1=CC=CC=C1)(=O)C1=CC=CC=C1 | C13H10O
reactant | 4-methylbenzenesulfonic acid | 86.5 mmol, 14.9 g, 0.1 equiv | CC1=CC=C(C=C1)S(=O)(=O)O | C7H8O3S
solvent | toluene | 1000 mL | C1(=CC=CC=C1)C | C7H8
product | t-butyl 2-(diphenylmethyleneamino)acetate | 125 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)=NCC(=O)OC(C)(C)C | C19H21NO2
